US04607030
(d) 2-Aminomethyl-4-(1,1-dimethylethyl)-6-methylsulfamoylphenol hydrochloride
4.9 g (0.016 mole) of 6-acetamidomethyl-4-(1,1-dimethylethyl)-2-methylsulfamoylphenol in a mixture of 30 ml of ethanol and 10 ml of concentrated hydrochloric acid are heated under reflux for 8 hours. Evaporation and recrystallization from methanol/ether gives white crystals of melting point 238°-240° C.

reactant | 6-acetamidomethyl-4-(1,1-dimethylethyl)-2-methylsulfamoylphenol | 0.016 mole, 4.9 g | C(C)(=O)NCC1=CC(=CC(=C1O)S(NC)(=O)=O)C(C)(C)C | C14H22N2O4S
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-Aminomethyl-4-(1,1-dimethylethyl)-6-methylsulfamoylphenol hydrochloride | Cl.NCC1=C(C(=CC(=C1)C(C)(C)C)S(NC)(=O)=O)O | InChI=1S/C12H20N2O3S.ClH/c1-12(2,3)9-5-8(7-13)11(15)10(6-9)18(16,17)14-4;/h5-6,14-15H,7,13H2,1-4H3;1H
